* source PRE-AMP-DISCRET
R_R1         N15030 N14894  806 TC=0,0 
R_R2         N15030 N14890  806 TC=0,0 
R_R3         0 N14847  10k TC=0,0 
C_C1         N14836 N14847  3.3u  TC=0,0 
V_V1         0 N15026 15Vdc
V_V2         N15475 0 15Vdc
R_R4         N14925 N14933  80.6 TC=0,0 
R_R5         N14921 N14933  80.6 TC=0,0 
R_R6         N15453 N15457  120 TC=0,0 
R_R7         0 N24191  10k TC=0,0 
V_V3         N14836 0  AC 1V
+SIN 0V 1V 1kHz 0 0 0
R_R9         0 N15626  4.7k TC=0,0 
R_R10         N15626 N15877  10k TC=0,0 
R_R12         N56394 N15475  249 TC=0,0 
R_R13         N15026 N65055  249 TC=0,0 
R_R15         N23087 N15457  806 TC=0,0 
R_R14         N23175 N15457  806 TC=0,0 
R_R16         N23551 N23449  80.6 TC=0,0 
R_R17         N23551 N23465  80.6 TC=0,0 
R_R18         N15030 N24034  120 TC=0,0 
R_R19         N24000 0  10k TC=0,0 
R_R22         N15877 N25617  47 TC=0,0 
R_R23         0 N25617  47k TC=0,0 
X_U7         N14933 N24191 N15453 BCM857DS
X_U8         N24191 N15453 N15457 BCM857DS
X_U11         N23551 N24000 N24034 BCM847DS
X_U12         N24000 N24034 N15030 BCM847DS
R_R29         N41448 N41566  390 TC=0,0 
R_R30         N41418 N41422  390 TC=0,0 
X_R31         N41422 N41422 N41448 POT PARAMS: SET=0.3 VALUE=10k
Q_Q10         N41566 N41448 N41846 BC550C 
Q_Q11         N41418 N41422 N41846 BC560C 
X_Q13         N15026 N41418 N42225 awbbc327_40 PARAMS:                         
+                    
X_Q14         N15475 N41566 N42256 awbbc337_40 PARAMS:                         
+                    
R_R34         N15877 N42256  10 TC=0,0 
R_R35         N42225 N15877  10 TC=0,0 
C_C9         N41418 N41566  1uF  TC=0,0 
Q_Q16         N23175 N14847 N23449 QNPN_THAT_HF 
Q_Q17         N23087 N15626 N23465 QNPN_THAT_HF 
Q_Q18         N14890 N15626 N14921 QPNP_THAT_HF 
Q_Q19         N14894 N14847 N14925 QPNP_THAT_HF 
R_R36         N15626 0  47k TC=0,0 
X_U13         N41418 N14894 N65055 BCM847DS
X_U15         N41566 N23175 N56394 BCM857DS
C_C10         N14894 N41418  22p  TC=0,0 
C_C11         N15626 N15877  4.7p  TC=0,0 
D_D2         N15475 N66253 D1N4148 
R_R37         N15457 N66253  100 TC=0,0 
D_D3         N66219 N15026 D1N4148 
R_R38         N15030 N66219  100 TC=0,0 
